US08183246B2
[(3R)-3-Hydroxybutyl]oxy-acetic acid tert.-butyl ester
Put 1.0 g (11.1 mmol) (3R)-butane-1,3-diol in 20 ml THF at 0° C. Add dropwise 5.55 ml (11.1 mmol) of a 2 M solution of the phosphazene base P2-tert.-butyl in THF and stir for 30 min at 0° C. Then add 2.27 g (11.65 mmol) tert.-butyl bromoacetate. Stir for 30 min at 0° C., then leave to return to RT and stir for a further 1 h. Then dilute with ethyl acetate, add water and acidify with 10% citric acid solution. Extract once more with ethyl acetate, combine the organic phases, wash once with satd. sodium chloride solution, dry over magnesium sulphate and concentrate by evaporation. Purify by chromatography on silica gel (solvent: cyclohexane/ethyl acetate 8:2). 730 mg (32.2% of theor.) of the target compound is obtained, which according to 1H-NMR (doublet at 1.18 ppm) contains approx. 10% of the regioisomer [(1R)-3-hydroxy-1-methylpropyl]oxy}acetic acid tert.-butyl ester.

reactant | (3R)-butane-1,3-diol | 11.1 mmol, 1.0 g | C(C[C@@H](C)O)O | C4H10O2
reactant | tert.-butyl bromoacetate | 11.65 mmol, 2.27 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | acetic acid tert.-butyl ester | C(C)(C)(C)OC(C)=O | C6H12O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | [(3R)-3-Hydroxybutyl]oxy-acetic acid tert.-butyl ester | C(C)(C)(C)OC(COCC[C@@H](C)O)=O | C10H20O4
